US05506239
A solution of 2.5 g of 6-{4-[2-(4-methoxymethoxy-1-piperidinyl)ethyl]aminobutoxy}carbostyril, 1.5 g of cyclohexylmethanesulfonyl chloride and 1.35 ml of triethylamine in 30 ml of dichloromethane was stirred at room temperature for 16 hours. The reaction mixture was washed with water and dried with magnesium sulfate. The solvent was removed by distillation. The resulting residue was purified by a silica gel column chromatography (eluant: 3% methanol/chloroform)-to obtain 620 mg of 6-[4-{N-[2-(4-methoxymethoxy-1-piperidinyl)ethyl]-N-cyclohexylmethylsulfonylamino}butoxy]carbostyril.

reactant | 6-{4-[2-(4-methoxymethoxy-1-piperidinyl)ethyl]aminobutoxy}carbostyril | 2.5 g | COCOC1CCN(CC1)CCNCCCCOC=1C=C2C=CC(NC2=CC1)=O | C22H33N3O4
reactant | cyclohexylmethanesulfonyl chloride | 1.5 g | C1(CCCCC1)CS(=O)(=O)Cl | C7H13ClO2S
reactant | triethylamine | 1.35 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 6-[4-{N-[2-(4-methoxymethoxy-1-piperidinyl)ethyl]-N-cyclohexylmethylsulfonylamino}butoxy]carbostyril | 620 mg | COCOC1CCN(CC1)CCN(S(=O)(=O)CC1CCCCC1)CCCCOC=1C=C2C=CC(NC2=CC1)=O | C29H45N3O6S
